.SUBCKT NAND3BBX3H7R AN BN C VDD VSS Y
*.PININFO AN:I BN:I C:I Y:O VDD:B VSS:B
MMM2 net25 A2N net33 VSS nm1p2_svt_lp W=450n L=60n m=1
MMM3 Y A1N net25 VSS nm1p2_svt_lp W=450n L=60n m=1
MMM7 net33 C VSS VSS nm1p2_svt_lp W=450n L=60n m=1
MMM5 A2N BN VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMM8 A1N AN VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMM1 Y C VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMM0 Y A2N VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMM6 Y A1N VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMM4 A2N BN VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMM9 A1N AN VDD VDD pm1p2_svt_lp W=190n L=60n m=1
.ENDS
